US07361672B2
63.1 A solution of 8.5 g 5-amino-1H-tetrazole, 8.8 ml methyl chloroacetate and 5.8 g potassium hydroxide in 100 ml methanol was heated to reflux under an argon atmosphere and stirred for 18 h. A white solid slowly precipitated. The suspension was cooled to r.t. The white solid was filtered off and washed with methanol. The filtrate was concentrated. The residue was suspended in 100 ml EtOH and heated to reflux. After 1 h stirring at reflux, the mixture was filtered while hot. The filtrate was concentrated. The residue was recrystallized in 100 ml EtOH to give 1.8 g of (5-amino-tetrazol-2-yl)-acetic acid methyl ester as colorless crystalline solid.

reactant | 5-amino-1H-tetrazole | 8.5 g | NC1=NN=NN1 | CH3N5
reactant | methyl chloroacetate | 8.8 ml | ClCC(=O)OC | C3H5ClO2
reactant | potassium hydroxide | 5.8 g | [OH-].[K+]
solvent | methanol | 100 ml | CO | CH4O
product | (5-amino-tetrazol-2-yl)-acetic acid methyl ester | 1.8 g | COC(CN1N=C(N=N1)N)=O | C4H7N5O2
